US07982036B2
A solution of tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate (1.6 g, 5 mmol), 3-chloro-4-fluorophenol (1.4 g, 10 mmol) and potassium carbonate (1.4 g, 10 mmol) in 15 mL of DMF was heated to 120° C. for 16 h. The reaction mixture was mixed in 15 mL of water, the crude product was precipitated, filtered, purified by flash chromatography on silica gel with MeOH/DCM solvent system to afford 750 mg (45% yield) of N1-(6-(3-chloro-4-fluorophenoxy)pyrimidin-4-yl)benzene-1,3-diamine as an off-white solid. MS (m/z): MH+=331.

reactant | tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate | 5 mmol, 1.6 g | ClC1=CC(=NC=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C15H17ClN4O2
reactant | 3-chloro-4-fluorophenol | 10 mmol, 1.4 g | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | N1-(6-(3-chloro-4-fluorophenoxy)pyrimidin-4-yl)benzene-1,3-diamine | 750 mg, 45% yield | ClC=1C=C(OC2=CC(=NC=N2)NC2=CC(=CC=C2)N)C=CC1F | C16H12ClFN4O
